datasets/10k__Tet_Int.csv
SMILES Labelled
"[H]C1C(C(O[C:20](N1[H])([O-:10])[Cl:21])CC)CCCCCC>>[H]C1C(C(O[C:20](=[O:10])N1[H])CC)CCCCCC.[Cl-:21] 10=20;20,21=21"
"[H][O+:10](C(CC)C(CC)[O]1)[C:20]1([O:21][H])[S]C.[Cl-]>>[Cl-].[H][O:10]C(CC)C(CC)[O][C:20]([S]C)=[O+:21][H] 21=20;20,10=10"
"[H][NH+:10]([H])[C:20]1([NH:21][H])[NH]C(CC)C([H])[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[NH]C(CC)C([H])[O]2.[H][NH:10][H] 21=20;20,10=10"
"[H][NH+:21]=[C:20]2[NH][CH]([H])[CH]([H])C(C)[O]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21][H])[NH][CH]([H])C([H])[CH](C)[O]1 10=20;20,21=21"
"CCC1C(C(O[C:20](=[O:10])N1CC)CC)CCCCCC.[O-:21]C>>CCC1C(C(O[C:20](N1CC)([O-:10])[O:21]C)CC)CCCCCC 21=20;20,10=10"
"CCC1C(O[C:20](N1[H])([O-:10])[O:21]C)C>>CCC1C(O[C:20](=[O:10])N1[H])C.[O-:21]C 10=20;20,21=21"
"C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)CCCCCC)[H])C)[O-:10])CC>>C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)[H])C)CC 10=20;20,21=21"
"CN([C:20](=[O:10])OC)CC.[O-:21]C1=CC=CC=C1>>CN([C:20]([O-:10])(OC)[O:21]C1=CC=CC=C1)CC 21=20;20,10=10"
"CC[O+:10]([H])[C:20]1([NH:21][H])[NH]C([H])C([H])[NH]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[NH]C([H])C([H])[NH]2.CC[O:10][H] 21=20;20,10=10"
"[Si](C)(C)(C)[O+:21]=[C:20]2[O]C(C7=CC=CC=C7)C(CC)[S]2.CC[S:10][H].[Cl-]>>[Cl-].CC[S+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[O]C(C7=CC=CC=C7)C(CC)[S]1 10=20;20,21=21"
"[O-:21][C:20]1(OC)[NH+:10]([H])C([H])C(C)C1O>>[NH:10]([H])C([H])C(C)C([C:20](OC)=[O:21])O 21=20;20,10=10"
"[H][O+:10](C([H])C([H])C(CC)[O]1)[C:20]1([O:21][H])[S][H].[Cl-]>>[Cl-].[H][O:10]C([H])C([H])C(CC)[O][C:20]([S][H])=[O+:21][H] 21=20;20,10=10"
"CCCCCC[NH:10][H].C1CC(=O)N(C1=O)O[C:20](=[O:21])C1=CC=CC=C1>>CCCCCC[NH+:10]([C:20]([O-:21])(ON1C(=O)CCC1=O)C1=CC=CC=C1)[H] 10=20;20,21=21"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]CC)[NH][CH](CC)C([H])[CH](C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH][CH](CC)[CH]([H])C(C8=CC=CC=C8)[O]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"[H][S:10]C([H])C([H])C(CC)[S][C:20]([S][H])=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C([H])C([H])C(CC)[S]1)[C:20]1([O:21]C)[S][H] 10=20;20,21=21"
"C9=CC=CC=C9[S+:10]([H])[C:20]1([O:21][H])[O][CH](CC)C(C)[CH]([H])[O]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[O][CH](CC)[CH](C)C([H])[O]2.C9=CC=CC=C9[S:10][H] 21=20;20,10=10"
"CCN([C:20]([O-:10])(OC1=CC=CC=C1)[O:21][H])C1=CC=CC=C1>>CCN([C:20](=[O:10])OC1=CC=CC=C1)C1=CC=CC=C1.[O-:21][H] 10=20;20,21=21"
"C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]CC)[O][CH]([H])C(C)[CH](C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[O][CH]([H])[CH](C)C(C8=CC=CC=C8)[O]2.C9=CC=CC=C9[NH:10][H] 21=20;20,10=10"
"[O-:10]C([H])C(C)C([H])C(C)[C:20](OCC)=[O:21]>>[O-:21][C:20]1(OCC)C(C)C([H])C(C)C([H])[O:10]1 10=20;20,21=21"
"[H][NH+:10](C([H])C(C)C(CC)[NH]1)[C:20]1([NH:21]CC)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][NH:10]C([H])C(C)C(CC)[NH][C:20]([O]C7=CC=CC=C7)=[NH+:21]CC 21=20;20,10=10"
"[O:10]([Na])C([H])C([H])C([H])C([H])[C:20]([H])=[O:21]>>[O-:21][C:20]1([H])C([H])C([H])C([H])C([H])[O+:10]1([Na]) 10=20;20,21=21"
"C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)CC)[H].[O-:21][H]>>C1=CC=CC=C1C1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21][H])CC)[H] 21=20;20,10=10"
"CCCCCCC1C(C(O[C:20](N1CC)([O-:10])[O:21][H])C)[H]>>CCCCCCC1C(C(O[C:20](=[O:10])N1CC)C)[H].[O-:21][H] 10=20;20,21=21"
"CC[NH+:21]=[C:20]2[O]C(CC)C(C)[NH]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21]CC)[O]C(CC)C(C)[NH]1 10=20;20,21=21"
"[H][NH+:21]=[C:20]2[NH][CH](C)[CH]([H])C([H])[NH]2.CC[NH:10][H].[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]1([NH:21][H])[NH][CH](C)C([H])[CH]([H])[NH]1 10=20;20,21=21"
"[OH:21][C:20]1(OCC)C(C)C(C)C([H])C(CCC)[OH+:10]1>>[OH:10]C(CCC)C([H])C(C)C(C)[C:20](OCC)=[OH+:21] 21=20;20,10=10"
"[O-:21][C:20]1(OC)C(O)C(O)C([H])C([H])[O:10]1>>[O-:10]C([H])C([H])C(O)C(O)[C:20](OC)=[O:21] 21=20;20,10=10"
"[H][O+:10](C(CC)C(CC)[S]1)[C:20]1([O:21][H])[O][H].[Cl-]>>[Cl-].[H][O:10]C(CC)C(CC)[S][C:20]([O][H])=[O+:21][H] 21=20;20,10=10"
"[H][S+:10](C(C)C(C)[S]1)[C:20]1([O:21][H])[S]CC.[Cl-]>>[Cl-].[H][S:10]C(C)C(C)[S][C:20]([S]CC)=[O+:21][H] 21=20;20,10=10"
"CC[S+:10]([H])[C:20]([O:21]C)([S]CC)[O]CC.[Cl-]>>[Cl-].CC[S:10][H].C[O+:21]=[C:20]([S]CC)[O]CC 21=20;20,10=10"
"CCCCCCN([C:20]([O-:10])([O:21]N1C(=O)CCC1=O)O[H])[H]>>CCCCCCN([C:20](=[O:10])O[H])[H].C1CC(=O)N(C1=O)[O-:21] 10=20;20,21=21"
"[H][O+:10](C(C)C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]C)[O]CC.[Cl-]>>[Cl-].[H][O:10]C(C)C(C)C(C8=CC=CC=C8)[O][C:20]([O]CC)=[NH+:21]C 21=20;20,10=10"
"[H][NH:10]C(CC)C([H])C([H])[O][C:20]([O]C7=CC=CC=C7)=[NH+:21][H].[Cl-]>>[Cl-].[H][NH+:10](C(CC)C([H])C([H])[O]1)[C:20]1([NH:21][H])[O]C7=CC=CC=C7 10=20;20,21=21"
"[OH:10]C(CCC)/C([H])=C([C:20](C)=[OH+:21])/C>>[OH:21][C:20]1(C)[OH+:10]C(CCC)C([H])=C1C 10=20;20,21=21"
"[H][NH:10]C(C)C([H])[O][C:20]([O]C)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][NH+:10](C(C)C([H])[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]C 10=20;20,21=21"
"CCCCCCN([C:20]1(OC(C(C([O:21]1)CCCCCC)C)[H])[O-:10])C>>CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)C)[H])C 10=20;20,21=21"
"[H][NH:10]C(C)C([H])C([H])[O][C:20]([NH]C)=[NH+:21]C.[Cl-]>>[Cl-].[H][NH+:10](C(C)C([H])C([H])[O]1)[C:20]1([NH:21]C)[NH]C 10=20;20,21=21"
